US08183255B2
Intermediate E5(iv) ((R)-2-(tert-butoxycarbonyl)-4-methoxy-4-oxobutanoic acid)
To a stirred solution of compound E5(iii) (73.5 g, 0.5 mol) in THF (500 mL) and water (500 mL) was added Na2CO3 (106 g, 1 mol), followed by Boc2O (120 g, 0.55 mol). Then the mixture was stirred at room temperature overnight. TLC (dichloromethane/methanol=10/1) suggested that the reaction was complete. The reaction mixture was concentrated, and the residue was dissolved in water (200 mL), extracted with ethyl acetate (500 mL×2). The aqueous layer was separated, and acidified with 1N HCl to pH=5, extracted with ethyl acetate (500 mL×20). The combined organic layers were dried over Na2SO4. Filtration and concentration gave the compound E5(iv) (75 g, 61%) as an oil.

reactant | water | 500 mL | O | H2O
reactant | Na2CO3 | 1 mol, 106 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 0.55 mol, 120 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane methanol | ClCCl.CO
reactant | THF | 500 mL | C1CCOC1 | C4H8O
product | (R)-2-(tert-butoxycarbonyl)-4-methoxy-4-oxobutanoic acid | C(C)(C)(C)OC(=O)[C@@H](C(=O)O)CC(=O)OC | C10H16O6
